US06204274B1
1-N-Glycidyl-5-fluoro-indole
Epibromohydrin (1.4 ml, 16.5 mmole) was added to a stirred solution of 5-fluoroindole (2.0 g, 15 mmole) and sodium hydride (0.66 g, 16.5 mmole) in anhydrous DMF (20 ml), and the mixture was heated at 60° C. under nitrogen for 15 hours. Water (100 ml) was added and the product extracted into CH2Cl2 (3×35 ml). The combined organics were washed with water (25 ml), brine (25 ml) and dried over anhydrous sodium sulfate. Filtration and concentration in vacuo gave the crude product as a viscous yellow colored oil (2.7 g). This was purified by flash silica gel chromatography (30% ethyl acetate in hexane) to afford the titled product as a viscous oil (2.5 g, 89% yield).

reactant | Epibromohydrin | 16.5 mmole, 1.4 ml | C(Br)C1CO1 | C3H5BrO
reactant | 5-fluoroindole | 15 mmole, 2.0 g | FC=1C=C2C=CNC2=CC1 | C8H6FN
reactant | sodium hydride | 16.5 mmole, 0.66 g | [H-].[Na+]
reactant | Water | 100 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-N-Glycidyl-5-fluoro-indole | 2.5 g, 89% yield | C(C1CO1)N1C=CC2=CC(=CC=C12)F | C11H10FNO
